US08802659B2
6-(trans-4-tert-butylcyclohexyloxy)-2-naphthaldehyde (30 mg, 0.097 mmol), ethyl 3-aminobutanoate (CAS no. 5303-65-1) (19 mg, 0.145 mmol), and acetic acid (17 mg, 0.291 mmol) were dissolved in dichloroethane (2 mL). The mixture was stirred at r.t. for 10 min under nitrogen atmosphere. Then NaBH(OAc)3 (41 mg, 0.194 mmol) was added to the mixture and the mixture was stirred at r.t. for 15 h. Then saturated NaHCO3 was added to the mixture to adjust the pH to 8. The mixture was extracted with ethyl acetate and the organic layer was purified by silica gel column chromatography using dichloromethane:methanol 10:1 to give product ethyl 3-((6-(trans-4-tert-butylcyclohexyloxy)naphthalen-2-yl)methylamino)butanoate (40 mg, 88%) as a slight yellow solid. ESI-MS: 426.1 (M+H)+. 1H NMR (400 MHz, CDCl3) δ 7.70-7.65 (m, 3H), 7.41 (d, 1H), 7.13-7.09 (m, 2H), 4.28-4.23 (m, 1H), 4.12 (q, 2H), 3.98-3.88 (m, 2H), 3.22-3.18 (m, 1H), 2.53-2.42 (m, 2H), 2.28-2.25 (m, 2H), 1.90-1.87 (m, 2H), 1.45-1.42 (m, 2H), 1.26-1.09 (m, 9H), 0.90 (s, 9H).

reactant | 6-(trans-4-tert-butylcyclohexyloxy)-2-naphthaldehyde | 0.097 mmol, 30 mg | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC(=CC2=CC1)C=O | C21H26O2
reactant | ethyl 3-aminobutanoate | NC(CC(=O)OCC)C | C6H13NO2
reactant | acetic acid | 0.291 mmol, 17 mg | C(C)(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 0.194 mmol, 41 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloroethane | 2 mL | ClC(C)Cl | C2H4Cl2
product | ethyl 3-((6-(trans-4-tert-butylcyclohexyloxy)naphthalen-2-yl)methylamino)butanoate | 40 mg, 88% | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC(=CC2=CC1)CNC(CC(=O)OCC)C | C27H39NO3
